US20010014691A1
3-Bromo-1-(3-pyridyloxy)butane
Under a nitrogen atmosphere, a solution of 3-hydroxypyridine (1.00 g, 10.52 mmol) in N,N-dimethylformamide (DMF) (10 mL) was slowly added to a cold (0° C.), stirring slurry of sodium hydride (0.50 g of an 60% dispersion in mineral oil, 12.63 mmol) in DMF (5 mL). After stirring 30 min, 1,3-dibromobutane (2.50 g, 11.57 mmol) was slowly added drop-wise. The resulting mixture was stirred at 0-4° C. for 16 h. Cold water (10 mL) was added, and the mixture was extracted with ether (3×100 mL). The combined ether extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation to give 2.23 g (92.5%) of an oil.

reactant | 3-hydroxypyridine | 10.52 mmol, 1.00 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1,3-dibromobutane | 11.57 mmol, 2.50 g | BrCCC(C)Br | C4H8Br2
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
product | 3-Bromo-1-(3-pyridyloxy)butane | 2.23 g, 92.5% | BrC(CCOC=1C=NC=CC1)C | C9H12BrNO
